US05998092
Ethyl acetoacetate (27.61 g, 0.21 mol) was dissolved in ethanol (100 ml) which was cooled in an ice-water bath, and sodium ethoxide (15.59 g, 0.22 mol) was added. 4-Vinylbenzyl chloride (33.92 g, 0.2 mole) was added. The mixture was refluxed for 16 hours, then the resulting slurry was filtered to remove any salt, and the solution collected. The solvent was removed under reduced pressure to give ethyl 2-(4-vinylbenzyl)-3-oxobutanoate in the form of a light red liquid (49 g) in 95% yield.

reactant | Ethyl acetoacetate | 0.21 mol, 27.61 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethoxide | 0.22 mol, 15.59 g | [O-]CC.[Na+]
reactant | 4-Vinylbenzyl chloride | 0.2 mole, 33.92 g | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(4-vinylbenzyl)-3-oxobutanoate | 95% yield | C(=C)C1=CC=C(CC(C(=O)OCC)C(C)=O)C=C1 | C15H18O3
